US07314937B2
2-Morpholin-4-yl-N-{1-[4-(3-piperidin-1-yl-propoxy)-phenyl]-cyclopropyl}-acetamide:
1-[4-(3-Piperidin-1-yl-propoxy)-phenyl]-cyclopropylamine (0.195 g, 0.72 mmol) and morpholin-4-yl-acetic acid (0.125 g, 0.86 mmol) are dissolved in DMF, and diisopropylethylamine added (0.15 mL), followed by EDC (0.165 g, 0.86 mmol) and HOBt (0.116 g, 0.86 mmol). The reaction mixture was stirred overnight at room temperature. The residue is purified by chromatography [SCX-MeOH wash, elute 2M NH3/MeOH; then Biotage 12M SiO2, elute 10% (25/5/1 CHCl3/MeOH/NH4OH)/90% (10% MeOH/CHCl3)] to give the title compound as a yellow oil. HRMS 402.2765 (M+H)+.

reactant | 1-[4-(3-Piperidin-1-yl-propoxy)-phenyl]-cyclopropylamine | 0.72 mmol, 0.195 g | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1(CC1)N | C17H26N2O
reactant | morpholin-4-yl-acetic acid | 0.86 mmol, 0.125 g | N1(CCOCC1)CC(=O)O | C6H11NO3
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC | 0.86 mmol, 0.165 g
reactant | HOBt | 0.86 mmol, 0.116 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Morpholin-4-yl-N-{1-[4-(3-piperidin-1-yl-propoxy)-phenyl]-cyclopropyl}-acetamide | N1(CCOCC1)CC(=O)NC1(CC1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C23H35N3O3
